US08372823B2
Methyl 6-(2-(1-Hydroxy-3-(4-phenoxyphenyl)propyl)oxazol-5-yl)pyridine-2-carboxylate (779 mg, 1.81 mmol) was dissolved in anhydrous CH2Cl2 (26 mL) and Dess-Martin periodinane (1.151 g, 2.715 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 90 min. The addition of saturated aqueous NaHCO3 quenched the reaction and the organic layer was washed with saturated aqueous Na2S2O3 then saturated aqueous NaCl. The organic layer was dried over Na2SO4 and the solvent was removed in vacuo. The crude product was purified by flash chromatography (SiO2, 0-50% EtOAc/hexanes) to provide methyl 6-(2-(3-(4-phenoxyphenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate as a yellow oil (711 mg, 92%): 1H NMR (CDCl3, 500 MHz) δ 8.10 (d, 1H, J=7.5 Hz), 8.01-8.00 (m, 2H), 7.95 (t, 1H, J=7.5 Hz), 7.30 (t, 2H, J=7.5 Hz), 7.22 (d, 2H, J=8.5 Hz), 7.06 (t, 1H, J=7.0 Hz), 6.97 (d, 2H, J=7.5 Hz), 6.93 (d, 2H, J=8.5 Hz), 4.02 (s, 3H), 3.46 (t, 2H, J=7.5 Hz), 3.08 (t, 2H, J=7.5 Hz); 13C NMR (CDCl3, 125 MHz) δ 187.2, 165.0, 157.4, 157.3, 155.5, 152.3, 148.5, 146.4, 138.2, 135.2, 129.7, 129.6, 127.9, 125.1, 123.2, 123.0, 119.1, 118.5, 53.0, 40.8, 28.9; HR ESI-TOF m/z 429.1444 (M+H+, C25H20N2O5, requires 429.1445).

reactant | Methyl 6-(2-(1-Hydroxy-3-(4-phenoxyphenyl)propyl)oxazol-5-yl)pyridine-2-carboxylate | 1.81 mmol, 779 mg | OC(CCC1=CC=C(C=C1)OC1=CC=CC=C1)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C25H22N2O5
reactant | Dess-Martin periodinane | 2.715 mmol, 1.151 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 26 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-(2-(3-(4-phenoxyphenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 711 mg, 92% | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C25H20N2O5
